US07651639B2
To 1000 g of 10% catechol sulfonic acid aqueous solution stirred at room temperature, 30 g of calcium hydroxide was added. The stirring was continued while measuring the pH value. At the time when the pH value reached 6, approximately, filtration was done by using a 0.4 μm glass filter to remove the insoluble components, so as to obtain a calcium catecholsulfonate aqueous solution.

reactant | catechol sulfonic acid | 1000 g | C1(O)=C(O)C(=CC=C1)S(=O)(=O)O | C6H6O5S
reactant | calcium hydroxide | 30 g | [OH-].[Ca+2].[OH-]
product | calcium catecholsulfonate | C1(O)=C(O)C(=CC=C1)S(=O)(=O)[O-].[Ca+2].C1(O)=C(O)C(=CC=C1)S(=O)(=O)[O-] | InChI=1S/2C6H6O5S.Ca/c2*7-4-2-1-3-5(6(4)8)12(9,10)11;/h2*1-3,7-8H,(H,9,10,11);/q;;+2/p-2
